US04151279
Example 2--Preparation of N-(phenylcarbamyloxy)-2-methyl-2-phenyl-4-trichloromethyl-5,5-dichloro-6-oxotetrahydro-1,3-oxazine
A solution of 8 g (0.02 mol) N-hydroxy-2-methyl-2-phenyl-4-trichloromethyl-5,5-dichloro-6-oxotetrahydro-1,3-oxazine, 2.4 g (0.02 mol) phenylisocyanate and several drops triethylamine in 90 ml dichloromethane was stirred at about 10° C. for about 2 days. The reaction mixture was filtered and the filtrate was evaporated under reduced pressure to give a yellow oil. The oil crystallized from ethanol/hexane to give 4 g of product, m.p. 154°-157° C. The product is tabulated in Table I as Compound No. 8.

reactant | N-hydroxy-2-methyl-2-phenyl-4-trichloromethyl-5,5-dichloro-6-oxotetrahydro-1,3-oxazine | 0.02 mol, 8 g | ON1C(OC(C(C1C(Cl)(Cl)Cl)(Cl)Cl)=O)(C1=CC=CC=C1)C | C12H10Cl5NO3
reactant | phenylisocyanate | 0.02 mol, 2.4 g | C1(=CC=CC=C1)N=C=O | C7H5NO
catalyst | triethylamine | several drops | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | N-(phenylcarbamyloxy)-2-methyl-2-phenyl-4-trichloromethyl-5,5-dichloro-6-oxotetrahydro-1,3-oxazine | 4 g | C1(=CC=CC=C1)NC(=O)ON1C(OC(C(C1C(Cl)(Cl)Cl)(Cl)Cl)=O)(C1=CC=CC=C1)C | C19H15Cl5N2O4
